US08071588B2
5-{[(3-bromo-4-fluorophenyl)methyl]amino}-5-oxopentanoic acid
A mixture of glutaric anhydride (342 mg, 3 mmol), [(3-bromo-4-fluorophenyl)methyl]amine hydrochloride salt (721.5 mg, 3 mmol), and diisopropyl ethyl amine (2 mL) in THF (50 mL) was stirred at room temperature for 1 hour. It was concentrated, mixed with 4% HCl (50 mL) and extracted with EtOAc (50 mL, 2×). The combined organic extracts were dried and concentrated to provide the captioned product (920 mg).

reactant | glutaric anhydride | 3 mmol, 342 mg | C1(CCCC(=O)O1)=O | C5H6O3
reactant | [(3-bromo-4-fluorophenyl)methyl]amine hydrochloride salt | 3 mmol, 721.5 mg | Cl.BrC=1C=C(C=CC1F)CN
reactant | diisopropyl ethyl amine | 2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-{[(3-bromo-4-fluorophenyl)methyl]amino}-5-oxopentanoic acid | 920 mg | BrC=1C=C(C=CC1F)CNC(CCCC(=O)O)=O | C12H13BrFNO3
